US07186729B2
4-(4-Chloro-phenyl)-3,3-dimethyl 1-{3-[7-(2-morpholin-4-yl-ethoxy)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-piperidin-4-ol
To a solution of 5-{3-[4-(4-chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-ol (0.15 g, 0.28 mmol) in DMF (1.5 mL) was added NaH (0.034 g, 0.84 mmol) and stirred for 20 min. at room temperature. 4-(2-Chloro-ethyl)-morpholine HCl (0.063 g, 0.34 mmol) was added and the solution was heated to 50° C. for 16 h. The reaction was quenched with water and extracted with ethyl acetate (3×). The organics were combined, dried over Mg2SO4, filtered and concentrated, then purified by Biotage flash chromatography (5–10% methanol/dichloromethane) to yield the title compound (0.050 g). 1H-NMR (MeOD) δ: 0.73 (3H, s), 0.85 (3H, s), 2.39–2.90 (11H, m), 3.29–3.31 (3H, m), 3.69–3.72 (4H, m), 4.1 (2H, t), 5.20 (2H, br s), 6.18 (1H, t), 6.74–6.79 (2H, m), 6.89 (1H, d), 7.27–7.30 (2H, m), 7.43–7.47 (3H, m), 7.79 (1H, dd), 8.46 (1H, dd). ESI-MS m/z: 604 (M), UV retention time: 1.20 min.

reactant | 5-{3-[4-(4-chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-ol | 0.28 mmol, 0.15 g | ClC1=CC=C(C=C1)C1(C(CN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)O)(C)C)O | C29H31ClN2O3
reactant | NaH | 0.84 mmol, 0.034 g | [H-].[Na+]
reactant | 4-(2-Chloro-ethyl)-morpholine HCl | 0.34 mmol, 0.063 g | Cl.ClCCN1CCOCC1
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 4-(4-Chloro-phenyl)-3,3-dimethyl 1-{3-[7-(2-morpholin-4-yl-ethoxy)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-piperidin-4-ol | 0.050 g | ClC1=CC=C(C=C1)C1(C(CN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)OCCN2CCOCC2)(C)C)O | C35H42ClN3O4
